* Z:\mnt\design.r\spice\examples\2923.asc
R1 N003 N010 100K
R2 N003 N012 100K
V1 N003 0 3.3
R3 N009 N015 887K
R4 N015 0 412K
R5 N009 N011 16.5K
R6 N011 0 13K
R7 N001 N007 1
R8 N007 0 100K
M§Q1 N001 N004 N002 N002 Si4420DY
V2 N001 0 PWL(0 0 1 3.3)
R9 N002 0 100
C1 0 N004 1µ
XU1 N001 N007 N011 N015 N009 0 N013 N005 N012 N010 N004 N002 LTC2923
R10 N013 0 400K
R11 N014 N013 400K
G1 0 N014 N016 N013 1
V3 N016 0 1
R12 N005 0 15K
R13 N006 N005 15K
G2 0 N006 N008 N005 1
V4 N008 0 1
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1 2 0 1m
.lib LTC2923.sub
.backanno
.end
