* Z:\mnt\design.r\spice\examples\2925.asc
M§Q1 N001 N002 OUT0 OUT0 Si4420DY
R1 OUT0 0 100
C1 0 N002 0.1µ
R2 N001 IN 15m
R3 IN N004 138K
R4 N004 0 100K
R5 N006 IN 10K
R6 N007 IN 10K
R7 N011 N015 118K
R8 N015 0 236K
R9 N011 N017 365K
R10 N017 0 171K
R11 N011 N020 900K
R12 N020 0 171K
C2 0 N021 0.47µ
C3 0 N022 0.082µ
C4 0 N023 0.82µ
V4 IN 0 PWL(0 0 10m 5)
XU2 N033 N034 N030 N016 N029 MP_01 OUT3 MP_02 N019 0 N032 N031 LT3050
C5 N033 0 10n
R17 N031 0 3K
C6 N031 0 .1µ
V3 N029 0 PWL(0 0 10m 12)
R18 N029 N030 120K
R19 N032 0 1.15K
C7 N032 0 10n
R20 N034 0 11.3K
C8 N034 0 10n
R21 OUT3 N019 1.8Meg
R22 N019 0 115K
C9 OUT3 0 2.2µ
Rload1 OUT3 0 100
R15 N029 N016 500K
XU1 N014 N018 N008 N005 IN MP_03 OUT1 MP_04 N003 0 N013 N009 LT3050
C10 N014 0 10n
R13 N009 0 3K
C11 N009 0 .1µ
R14 IN N008 120K
R16 N013 0 1.15K
C12 N013 0 10n
R23 N018 0 11.3K
C13 N018 0 10n
R24 OUT1 N003 118K
R25 N003 0 118K
C14 OUT1 0 2.2µ
Rload2 OUT1 0 25
R26 IN N005 500K
XU3 N027 N028 N024 N010 IN MP_05 OUT2 MP_06 N012 0 N026 N025 LT3050
C15 N027 0 10n
R27 N025 0 3K
C16 N025 0 .1µ
R28 IN N024 120K
R29 N026 0 1.15K
C17 N026 0 10n
R30 N028 0 11.3K
C18 N028 0 10n
R31 OUT2 N012 365K
R32 N012 0 115K
C19 OUT2 0 2.2µ
Rload3 OUT2 0 25
R33 IN N010 500K
XU5 N004 N001 IN N007 N005 N010 N016 N003 N012 N019 N002 NC_07 OUT0 N011 NC_08 N021 N022 N006 N015 N017 N020 IN N023 0 LTC2925
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 200m startup
.lib LT3050.sub
.lib LTC2925.lib
.backanno
.end
