* Z:\mnt\design.r\spice\examples\3015.asc
XU1 IN IN 0 OUT N002 LT3015
R1 OUT N002 10.5K
R2 N002 0 3.4K
V1 IN 0 -10
C1 OUT 0 10µ Rser=.1
S1 0 OUT N001 0 LOAD
V2 N001 0 PULSE(0 1 50u 1u 1u 75u)
.tran 250u
.model LOAD SW(Ron=3.3 Roff=33 Vt=.5 Vh=-.4)
.lib LT3015.lib
.backanno
.end
