* Z:\mnt\design.r\spice\examples\3023.asc
C1 N002 N003 .01µ
C2 N005 N006 .01µ
V2 N001 0 PWL(0 0 1 10)
R1 N002 N004 422K
R2 N004 0 249K
C3 N002 0 10µ
R3 N002 0 33
XU1 N006 N007 0 N004 N003 N002 N001 N001 N001 N005 LT3023
R4 N005 N007 261K
R5 N007 0 249K
C4 N005 0 10µ
R6 N005 0 25
.tran 1
.lib LT3023.lib
.backanno
.end
