* Z:\mnt\design.r\spice\examples\3027.asc
C1 N002 N003 .01µ
C2 N006 N007 .01µ
V2 N001 0 PWL(0 0 1 10)
R1 N002 N004 422K
R2 N004 0 249K
C3 N002 0 10µ
R3 N002 0 33
R4 N006 N008 261K
R5 N008 0 249K
C4 N006 0 10µ
R6 N006 0 25
XU1 N007 N008 N005 N004 N003 N002 N001 N001 N005 N006 0 LT3027
V1 N005 0 PWL(0 0 1 10)
.tran 1
.lib LT3027.lib
.backanno
.end
