* Z:\mnt\design.r\spice\examples\3028.asc
C1 N002 N003 .01µ
C2 N006 N007 .01µ
V2 N001 0 PWL(0 0 1 20)
R1 N002 N004 422K
R2 N004 0 249K
C3 N002 0 10µ
R3 N002 0 6.6
R4 N006 N008 261K
R5 N008 0 249K
C4 N006 0 10µ
R6 N006 0 25
V1 N005 0 PWL(0 0 1 20)
XU1 N003 MP_01 N002 MP_02 0 N006 MP_03 N007 N008 N005 N005 MP_04 N001 MP_05 N001 N004 LT3028
.tran 1
.lib LT3028.lib
.backanno
.end
