* Z:\mnt\design.r\spice\examples\3029.asc
V1 IN 0 PWL(0 0 1 10)
C1 OUT1 0 3.3µ
Rload OUT1 0 36
C2 OUT1 N001 .01µ
XU1 OUT1 N002 0 N001 IN IN IN IN OUT2 N004 N003 LT3029
R1 OUT1 N002 113K
R2 N002 0 237K
C3 OUT2 0 3.3µ
Rload1 OUT2 0 30
C4 OUT2 N003 .01µ
R3 OUT2 N004 54.9K
R4 N004 0 237K
.tran 1
.lib LT1763.lib
.backanno
.end
