* Z:\mnt\design.r\spice\examples\3050.asc
XU1 N005 N006 N002 IN IN MP_01 OUT MP_02 N001 0 N004 N003 LT3050
C1 N005 0 10n
R1 N003 0 3K
C2 N003 0 .1µ
V1 IN 0 12
R2 IN N002 120K
R3 N004 0 1.15K
C3 N004 0 10n
R4 N006 0 11.3K
C4 N006 0 10n
R5 OUT N001 365K
R6 N001 0 115K
C5 OUT 0 2.2µ
Rload OUT 0 25
.tran .1 startup
.lib LT3050.sub
.backanno
.end
