* Z:\mnt\design.r\spice\examples\3055.asc
XU1 IN MP_01 IN N002 N004 N006 NC_02 N005 N008 N007 N003 0 MP_03 N001 OUT LT3055
V1 IN 0 12
R1 IN N002 200K
R2 IN N004 200K
R3 IN N006 200K
R4 N008 0 120K
C1 N008 0 .1µ
R5 N007 0 604
C2 N007 0 22n
R6 N005 0 1K
C3 N005 0 .1µ
C4 N003 0 10n
R7 N001 0 60.4K
R8 OUT N001 442K
C5 OUT N001 10n
C6 OUT 0 10µ V=10 Irms=8.919 Rser=0.005 Lser=0 mfg="KEMET" pn="C1210C106K8PAC" type="X5R"
Rload OUT 0 15
.tran .1 startup
.lib LT3055.sub
.backanno
.end
