* Z:\mnt\design.r\spice\examples\3090.asc
XU1 IN MP_01 N002 N003 N001 IN N004 0 OUT LT3090
R1 N004 0 49.9K
C1 N004 0 .1µ
V1 IN 0 -3.3
R2 IN N002 10K
V2 N001 0 3.3
R3 N003 0 3.32K
C2 OUT 0 4.7µ Rser=10m
Rload OUT 0 4.16
.tran .1 startup
.lib LT3090.sub
.backanno
.end
