* Z:\mnt\design.r\spice\examples\3091.asc
R1 N004 0 49.9K
C1 N004 0 0.1µ
V1 IN 0 -3.3
R2 IN N002 5K
V2 N001 0 3.3
R3 N003 0 6.65K
C2 OUT 0 10µ Rser=10m
Rload OUT 0 2.5
XU1 IN MP_01 N002 N003 N001 IN N004 0 OUT LT3091
.tran .1 startup
.lib LT3091.sub
.backanno
.end
