* Z:\mnt\design.r\spice\examples\3092.asc
R1 N003 N004 5
XU1 MP_01 N002 N003 MP_02 N001 LT3092
R2 N002 N004 20K
V1 N001 0 PWL(0 0 1 40)
Rload N004 0 10
.tran 1
.lib LT3092.sub
.backanno
.end
