* Z:\mnt\design.r\spice\examples\3095.asc
XU1 0 N003 MP_01 N007 MP_02 N003 MP_03 OUT1 N005 IN IN N006 OUT2 MP_04 N004 MP_05 N008 0 N004 MP_06 N002 IN MP_07 N001 LT3095
V1 IN 0 4
L1 IN N001 6.8µ Rser=50m
L2 IN N002 6.8µ Rser=50m
C1 N003 0 10µ Rser=10m
C2 N004 0 10µ Rser=10m
C3 N005 0 .001µ
R1 N005 0 100K
C4 N007 0 1µ
C5 OUT1 0 2.2µ Rser=3m
Rload1 OUT1 0 100
C6 N006 0 .001µ
R2 N006 0 300K
C8 OUT2 0 2.2µ Rser=3m
Rload2 OUT2 0 300
R3 N008 0 100K
.tran 2.5m startup
.lib LT3095.sub
.backanno
.end
