* Z:\mnt\design.r\spice\examples\3104.asc
XU1 IN IN N003 N002 0 IN N005 MP_01 N001 IN N004 N006 OUT2 OUT1 LTC3104
V1 IN 0 12
C1 N001 0 1µ
C2 N002 N003 22n
R1 N001 N005 100K
L1 N003 OUT1 10µ
R2 OUT1 N004 1.78Meg
R3 N004 0 665K
C3 OUT1 N004 12p
C4 OUT1 0 47µ V=6.3 Irms=0 Rser=0.002 Lser=0 mfg="TDK" pn="C4532X5ROJ47@M" type="X5R"
R4 OUT2 N006 825K
R5 N006 0 412K
C5 OUT2 0 4.7µ V=6.3 Irms=0 Rser=0.003 Lser=0 mfg="TDK" pn="C2012X5ROJ475M" type="X5R"
Rload1 OUT1 0 7.3
Rload2 OUT2 0 180
.tran 2m startup
.lib LTC3104.sub
.backanno
.end
