* Z:\mnt\design.r\spice\examples\3105.asc
XU1 N003 N004 0 NC_01 N002 IN N001 NC_02 OUT N005 0 LTC3105
V1 IN 0 .5
L1 IN N001 10µ
R1 OUT N003 1020K
R2 N003 0 332K
C1 OUT 0 10µ
R3 OUT 0 500
C2 N004 0 4.7µ
R4 N004 0 350
C3 N005 0 1µ
R5 N002 0 40.2K
.tran 5m startup
.lib LTC3105.sub
.backanno
.end
