* Z:\mnt\design.r\spice\examples\3118.asc
XU1 0 IN1 IN1 IN2 N013 0 0 N008 N006 NC_01 NC_02 NC_03 OUT N003 N004 N001 N002 IN2 N011 N010 N012 N005 N009 N007 LTC3118
L1 N002 N003 3.3µ Rser=10m Rpar=20K
C1 N002 N001 .1µ
C2 N004 N003 .1µ
V1 IN1 0 12
V2 IN2 0 5
C3 N012 0 47n
C4 N011 N010 10n
C5 N009 N007 10n
C6 0 N005 47n
C7 N008 0 1.8n Rser=40.2K Cpar=22p
C8 N013 0 4.7µ
C9 OUT 0 150µ
R1 OUT 0 2
R2 OUT N006 400K
R3 N006 0 100K
.tran 2m startup
.lib LTC3118.sub
.backanno
.end
