* Z:\mnt\design.r\spice\examples\3121.asc
V1 IN 0 5
L1 IN N001 6.8µ Rser=10m
C1 N002 0 4.7µ
R1 N005 0 57.6K
C2 N006 0 390p Rser=210K Cpar=10p
C3 OUT N003 .1µ
R2 N004 0 113K
R3 OUT N004 1.02Meg
C4 OUT 0 22µ V=25 Irms=0 Rser=0.003 Lser=0 mfg="TDK" pn="C575OX5RIE226M" type="X5R"
Rload OUT 0 30
XU1 N001 0 IN N002 N002 N005 N006 N004 IN 0 OUT N003 LTC3121
.tran 3m startup
.softstart .2
* Note: Parameter "softstart", with the valid range of [0.1, 1],\n         can be used to reduce the internal startup timer,\n         for the purpose of simulation. The part has nominal \n         internal startup time of 10mSec.
.lib LTC3121.sub
.backanno
.end
