* Z:\mnt\design.r\spice\examples\3122.asc
XU1 N001 0 IN N002 N002 N005 N006 N004 IN 0 OUT N003 LTC3122
V1 IN 0 5
L1 IN N001 3.3µ Rser=10m
C1 N002 0 4.7µ
R1 N005 0 57.6K
C2 N006 0 390p Rser=210K Cpar=10p
C3 OUT N003 .1µ
R2 N004 0 113K
R3 OUT N004 1.02Meg
C4 OUT 0 22µ V=25 Irms=0 Rser=0.003 Lser=0 mfg="TDK" pn="C575OX5RIE226M" type="X5R"
Rload OUT 0 15
.tran 11m startup
.lib LTC3122.sub
.backanno
.end
