* Z:\mnt\design.r\spice\examples\3124.asc
XU1 N001 0 N003 0 IN IN N004 N006 N007 N005 IN 0 OUT MP_01 OUT N002 LTC3124
V1 IN 0 5
L1 IN N001 4.7µ Rser=20m
L2 IN N003 4.7µ Rser=20m
C1 N004 0 4.7µ
R1 N006 0 28K
C2 N007 0 680p Rser=84.5K Cpar=56p
C3 N002 OUT .1µ
C4 OUT 0 22µ x2 Rser=10m
R2 OUT N005 1.02Meg
R3 N005 0 113K
Rload OUT 0 8
.tran 1.5m startup
.lib LTC3124.sub
.backanno
.end
