* Z:\mnt\design.r\spice\examples\3154.asc
V1 IN 0 5
L1 N001 N002 1µ Rser=80m
R1 OUT N003 232k
R2 N003 0 100k
C5 N006 0 820p
C6 OUT 0 100µ Rser=10m
Rload OUT 0 .6
R3 N004 0 90.9k
XU1 0 N002 OUT IN IN N005 N003 0 N004 IN 0 OUT N001 IN LT3154
R4 N006 N005 60.4k
.tran 3m startup
.lib LT3154.sub
.backanno
.end
