* Z:\mnt\design.r\spice\examples\3200.asc
C1 N002 N001 1µ
C2 OUT 0 1µ
Rload OUT 0 50
V1 IN 0 3
XU1 N002 IN N001 0 0 IN N003 OUT LTC3200
R2 OUT N003 746.4K
R3 N003 0 250K
.tran 1m startup
.lib LTC3200.sub
.backanno
.end
