* Z:\mnt\design.r\spice\examples\3215.asc
XU1 N005 N004 N002 N003 N008 N001 N001 N007 0 N006 LTC3215
C1 N004 N006 2.2µ
C2 N005 N007 2.2µ
R1 N008 0 20K
D1 N002 N003 NSPW500BS
V1 N001 0 3.6
C3 N002 0 4.7µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 4m startup
.lib LTC3215.sub
.backanno
.end
