* Z:\mnt\design.r\spice\examples\3216.asc
XU1 N006 N002 N001 N005 N003 N007 IN IN IN N008 0 N004 LTC3216
V1 IN 0 3.6
C1 N002 N004 2.2µ
C2 N006 N008 2.2µ
D1 N001 N003 NSPW500BS
R1 N005 0 20K
R2 N007 0 6.65K
C3 N001 0 4.7µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 10m startup
.lib LTC3216.sub
.backanno
.end
