* Z:\mnt\design.r\spice\examples\3221.asc
XU1 N001 N003 N002 0 IN OUT LTC3221
C1 N001 N003 1µ
V1 IN 0 2.5
C2 OUT 0 4.7µ
R1 OUT N002 154K
R2 N002 0 107K
Rload OUT 0 50
.tran 2m startup
.lib LTC3221.sub
.backanno
.end
