* Z:\mnt\design.r\spice\examples\3226.asc
XU1 OUT NC_01 N002 N003 N001 N003 NC_02 IN N007 N009 NC_03 N005 IN N008 N004 N006 0 LTC3226
V1 IN 0 3.3
M§Q1 IN N001 OUT OUT IRF7233
R1 IN N002 1.96Meg
R2 N002 0 1.21Meg
C1 N004 N005 2.2µ
R3 N007 0 33.2K
R4 OUT N003 255K
R5 N003 0 80.6K
C2 OUT 0 47µ V=6.3 Irms=1 Rser=0.07 Lser=0 mfg="KEMET" pn="T520T476M006ATE070" type="Tantalum"
C3 N006 N008 .1m
C4 N008 0 .1m
R6 N006 N009 3.83Meg
R7 N009 0 1.21Meg
Rload OUT 0 1.65
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.5m startup
.lib LTC3226.sub
.backanno
.end
