* Z:\mnt\design.r\spice\examples\3245.asc
XU1 IN MP_01 MP_02 0 0 IN OUT N003 N001 OUT N002 0 LTC3245
V1 IN 0 12
C1 N001 N002 1µ
C2 OUT 0 10µ V=6.3 Irms=11.832 Rser=0.003 Lser=0 mfg="KEMET" pn="C0805C106K9PAC" type="X5R"
R1 OUT N003 500K
Rload OUT 0 20
.tran 1m startup
.lib LTC3245.sub
.backanno
.end
