* Z:\mnt\design.r\spice\examples\3251.asc
C1 N003 N005 1µ
C2 N001 N002 1µ
R1 N006 0 536K
R2 OUT N006 475K
Rload OUT 0 25
V1 IN 0 5
XU1 N004 IN N001 N002 0 N005 OUT N003 IN N006 LTC3251
C3 OUT 0 10µ Rser=0.01
.tran .5m startup
.lib LTC3251.sub
.backanno
.end
