* Z:\mnt\design.r\spice\examples\3371.asc
V1 IN 0 5
L1 N001 OUT1 2.2µ Rser=7m
C1 OUT1 0 47µ Rser=3m
Rload1 OUT1 0 1.2
R1 N005 IN 100K
R2 N007 IN 100K
R3 N009 IN 100K
R4 N010 IN 100K
R5 OUT1 N002 232K
R6 N002 0 464K
L2 N003 OUT2 2.2µ Rser=7m
C2 OUT2 0 47µ Rser=3m
Rload2 OUT2 0 2.5
R7 OUT2 N004 665K
R8 N004 0 309K
L3 N006 OUT3 2.2µ Rser=7m
C3 OUT3 0 47µ Rser=3m
Rload3 OUT3 0 3.3
R9 OUT3 N008 511K
R10 N008 0 162K
L4 N011 OUT4 2.2µ Rser=7m
C4 OUT4 0 47µ Rser=3m
Rload4 OUT4 0 1.8
R11 OUT4 N012 806K
R12 N012 0 649K
R13 N013 0 402K
XU1 IN NC_01 N005 IN N002 IN N001 N001 IN IN N003 N003 IN N004 IN N007 0 0 0 NC_02 NC_03 NC_04 N009 IN N008 IN N006 N006 IN IN N011 N011 IN N012 IN N010 N013 IN 0 LTC3371
.tran 2m startup
* 1.2V, 2A
* 2.5V, 2A
* 3.3V, 2A
* 1.8V, 2A
.lib LTC3371.sub
.backanno
.end
