* Z:\mnt\design.r\spice\examples\3410.asc
V1 IN 0 5
L1 N001 OUT 4.7µ
R1 OUT N002 887K
R2 N002 0 412K
XU1 IN 0 N001 IN MP_01 N002 LTC3410
C1 OUT N002 10p
C2 OUT 0 4.7µ
Rload OUT 0 100
.tran 250u startup
.lib LTC3410.sub
.backanno
.end
